US04971993
N-t-butyloxycarbonyl-L-valyl-L-proline benzylester (16.32 g, 40 mmole) was dissolved in 4N hydrochloric acid in dioxane (100 ml) solution, and the solution was stirred for 1 hour at room temperature. The solvent was distilled off and the residue thus obtained was powdered in diethyl ether to give L-valyl-L-proline benzylester hydrochloride (yield 10.31 g, 75.6%).

reactant | N-t-butyloxycarbonyl-L-valyl-L-proline benzylester | 40 mmole, 16.32 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)=O | C22H32N2O5
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | L-valyl-L-proline benzylester hydrochloride | yield 10.31 g, 75.6% | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](N)C(C)C)=O)=O | InChI=1S/C17H24N2O3.ClH/c1-12(2)15(18)16(20)19-10-6-9-14(19)17(21)22-11-13-7-4-3-5-8-13;/h3-5,7-8,12,14-15H,6,9-11,18H2,1-2H3;1H/t14-,15-;/m0./s1
